US04002620
2-(3,4-Dichloroanilino)-4H-3,1-benzothiazine
A mixture of 2-methylthio-4H-3,1-benzothiazine (39 g, 0.20 mole) and 3,4-dichloroaniline (32.4 g, 0.20 mole) in n-butanol (150 ml) was refluxed overnight. After cooling in ice, the solid was collected by filtration and recrystallized from ethanol to give 27 g (43.8%) of product. Recrystallization from ethanol gave analytical sample m.p. 207°-208°.

reactant | 2-methylthio-4H-3,1-benzothiazine | 0.20 mole, 39 g | CSC1=NC2=C(CS1)C=CC=C2 | C9H9NS2
reactant | 3,4-dichloroaniline | 0.20 mole, 32.4 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
solvent | n-butanol | 150 ml | C(CCC)O | C4H10O
product | 2-(3,4-Dichloroanilino)-4H-3,1-benzothiazine | 27 g, 43.8% | ClC=1C=C(NC2=NC3=C(CS2)C=CC=C3)C=CC1Cl | C14H10Cl2N2S
